US05162359
5-[(4-Methoxyphenyl)-methyl]-2,3-dihydro-1H-benzimidazole-2-thione
To a solution of 0.51 g (5.0 mmoles) of triethyl amine, 1.14 g (5.0 mmoles) of 4-[(4-methoxyphenyl)-methyl]-o-phenylene-diamine and 35 ml of chloroform a solution of 0.58 g (5.0 mmoles) of thiophosgene and 10 ml of chloroform are added dropwise.

reactant | triethyl amine | 5.0 mmoles, 0.51 g | C(C)N(CC)CC | C6H15N
reactant | 4-[(4-methoxyphenyl)-methyl]-o-phenylene-diamine | 5.0 mmoles, 1.14 g | COC1=CC=C(C=C1)CC1=CC(=C(C=C1)N)N | C14H16N2O
reactant | thiophosgene | 5.0 mmoles, 0.58 g | C(=S)(Cl)Cl | CCl2S
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 35 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-[(4-Methoxyphenyl)-methyl]-2,3-dihydro-1H-benzimidazole-2-thione | COC1=CC=C(C=C1)CC1=CC2=C(NC(N2)=S)C=C1 | C15H14N2OS
